US04571396
1-Ethyl-7-(1,4-diazabicyclo[3.2.1]oct-4-yl)-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid
A suspension of 2.06 g (6.28 mmol) 1-ethyl-7-ethanesulfonyl-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid and 1.29 g (6.97 mmol) 1,4-diazabicyclo[3.2.1]octane dihydrochloride in 30 ml acetonitrile was treated with 3.10 g (20.4 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene. The resulting solution was stirred overnight and the precipitate which formed was filtered to afford 0.40 g of the title compound, mp 228°-229° C.

reactant | 1-ethyl-7-ethanesulfonyl-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 6.28 mmol, 2.06 g | C(C)N1C=C(C(C2=CC(=C(N=C12)S(=O)(=O)CC)F)=O)C(=O)O | C13H13FN2O5S
reactant | 1,4-diazabicyclo[3.2.1]octane dihydrochloride | 6.97 mmol, 1.29 g | Cl.Cl.N12CCNC(CC1)C2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 20.4 mmol, 3.10 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-Ethyl-7-(1,4-diazabicyclo[3.2.1]oct-4-yl)-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 0.40 g | C(C)N1C=C(C(C2=CC(=C(N=C12)N1CCN2CCC1C2)F)=O)C(=O)O | C17H19FN4O3
